US06337305B1
2-[1Carbamoyl-1-(4-chlorophenyl)methyl]-3-chloro-5-trifluoromethylpyridine (Process B)
At 23° C., 6.0 g of 3-chloro-2-[1-(4-chlorophenyl)-1-cyanomethyl]-5-trifluoromethylpyridine (prepared by the method of Example 1) were stirred in 30 ml of 96% strength sulfuric acid for 16 hours. The reaction mixture was then carefully stirred into 200 ml of ice water during which the product crystallized out. The solid was separated off, washed successively with water and n-hexane and dried. Yield: 5.5 g (87%) of colorless crystals; mp.: 135-136° C.

reactant | 3-chloro-2-[1-(4-chlorophenyl)-1-cyanomethyl]-5-trifluoromethylpyridine | 6.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C(C#N)C1=CC=C(C=C1)Cl | C14H7Cl2F3N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-[1Carbamoyl-1-(4-chlorophenyl)methyl]-3-chloro-5-trifluoromethylpyridine | C(N)(=O)C(C1=CC=C(C=C1)Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C14H9Cl2F3N2O
